US08609656B2
Preparation of N,N-dimethyl-5-(trifluoromethyl)benzene-1,3-diamine
In 3 mL of methanol, 150 mg (0.55 mmol) of N-(3-amino-5-(trifluoromethyl)phenyl)-2,2,2-trifluoroacetamide, 0.076 mL (0.9 mmol) of a 37% formaldehyde aqueous solution and 0.05 mL of acetic acid were dissolved, and 47 mg (0.74 mmol) of sodium cyanoborohydride was added thereto, and the mixture solution was stirred at room temperature for 15 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the extract was washed with a saturated sodium chloride solution and concentrated, and the residue was dissolved in 6 mL of tetrahydrofuran. To this solution, 10 mL of a saturated sodium bicarbonate solution was added and the mixture solution was heated at 50° C. for 20 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the extract was dried on anhydrous magnesium sulfate and concentrated, and the residue was purified by silica gel column chromatography to obtain 100 mg (89%) of a brownish oily target product.

reactant | N-(3-amino-5-(trifluoromethyl)phenyl)-2,2,2-trifluoroacetamide | 0.55 mmol, 150 mg | NC=1C=C(C=C(C1)C(F)(F)F)NC(C(F)(F)F)=O | C9H6F6N2O
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.74 mmol, 47 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | O | H2O
product | N,N-dimethyl-5-(trifluoromethyl)benzene-1,3-diamine | 100 mg, 89% | CN(C1=CC(=CC(=C1)C(F)(F)F)N)C | C9H11F3N2
